US08957064B2
Step 3: 7-chloro-6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine
0.86 g (3.05 mmol) 5,7-Dichloro-6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine are given in 1.5 mL methanol and 8.6 mL THF. After addition of 0.589 g (4.6 mmol) zinc/copper pair the mixture is stirred at rt for 18 hours. The reaction mixture is filtered via a glass microfibre filter and washed with plenty of methanol. The solvent is evaporated and the residue is treated and evaporated three times with toluene. After chromatography on silicagel (eluents dichloromethane/methanol) 672.4 mg (89%) of the desired product containing bisdeschloro compound are obtained which is used without further purification.

reactant | 5,7-Dichloro-6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine | 3.05 mmol, 0.86 g | ClC1=C(C(=NC=2N1C=CN2)Cl)C2=C(C=CC=C2)F | C12H6Cl2FN3
solvent | methanol | 1.5 mL | CO | CH4O
solvent | THF | 8.6 mL | C1CCOC1 | C4H8O
catalyst | zinc copper | 4.6 mmol, 0.589 g | [Zn].[Cu]
product | 7-chloro-6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine | ClC1=NC=2N(C=C1C1=C(C=CC=C1)F)C=CN2 | C12H7ClFN3
